US05371077
To 3β-acetoxy-24-hydroxy-5α-chol-8(14)-en-15-one (1.0 g) in acetone (50 ml) an 8N solution of Jones reagent was added dropwise with stirring at room temperature until the orange color of the reagent persisted. 2-Propanol (1 ml) was added, and the reaction mixture was filtered through a sintered glass filter and evaporated to dryness under reduced pressure. The residue was dissolved in ethyl acetate, and the organic solution was washed with water, dried over anhydrous sodium sulfate, and evaporated to dryness under reduced pressure to give 3β-acetoxy-15-keto-5α-chol-8(14)-en-24-oic acid (1.0 g) of over 98% purity as judged by 1H NMR. The product showed single component on TLC in three solvent systems (20% methanol in CHCl3, Rf 0.64; isooctaneethyl acetate-acetic acid 5:5:1, Rf 0.56; and CHCl3 -acetonemethanol 7:5:1, Rf 0.18. The structure was confirmed by I.R, N.M.R., and M.S. analyses.

reactant | 3β-acetoxy-24-hydroxy-5α-chol-8(14)-en-15-one | 1.0 g | C(C)(=O)O[C@@H]1C[C@@H]2CCC3=C4C(C[C@H]([C@@H](CCCO)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C26H40O4
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-Propanol | 1 ml | CC(C)O | C3H8O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3β-acetoxy-15-keto-5α-chol-8(14)-en-24-oic acid | 1.0 g | C(C)(=O)O[C@@H]1C[C@@H]2CCC3=C4C(C[C@H]([C@@H](CCC(=O)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C26H38O5
